US04457944
1,3-Didecyl-cyclohexane
137 Grams of 2,6-didecyl-cyclohexanol were hydrogenated with 14 gm of Girdler nickel 49A. 71 Grams of the hydrocarbon 1,3-didecyl-cyclohexane were recovered.

reactant | 2,6-didecyl-cyclohexanol | C(CCCCCCCCC)C1C(C(CCC1)CCCCCCCCCC)O | C26H52O
catalyst | nickel | [Ni] | Ni
product | 1,3-Didecyl-cyclohexane | C(CCCCCCCCC)C1CC(CCC1)CCCCCCCCCC | C26H52
